US04137331
4-[2-hydroxy-3-(2,2,5,5-tetramethyl-1-pyrrolidinyl)propoxy]-9-fluorenone
4 g of 4-(2,3-epoxypropoxy)-9-fluorenone are heated to 150° in an autoclave for 15 hours together with 4 g of 2,2,5,5-tetramethylpyrrolidine in 30 cc of dioxane. After cooling, the reaction mixture is concentrated by evaporation. The residue is taken up in ether and extracted with 2 N hydrochloric acid. The aqueous solution is made alkaline and thoroughly extracted with methylene chloride. The methylene chloride phase is concentrated by evaporation and the residue is crystallized from ethyl acetate/petroleum ether. The title compound has an M.P. of 137°-139°.

reactant | 4-(2,3-epoxypropoxy)-9-fluorenone | 4 g | O1C(COC2=CC=CC=3C(C4=CC=CC=C4C23)=O)C1 | C16H12O3
reactant | 2,2,5,5-tetramethylpyrrolidine | 4 g | CC1(NC(CC1)(C)C)C | C8H17N
solvent | dioxane | 30 cc | O1CCOCC1 | C4H8O2
product | 4-[2-hydroxy-3-(2,2,5,5-tetramethyl-1-pyrrolidinyl)propoxy]-9-fluorenone | OC(COC1=CC=CC=2C(C3=CC=CC=C3C12)=O)CN1C(CCC1(C)C)(C)C | C24H29NO3
